US06518273B1
1-[3-(1H-Indol-3-yl)-1-oxopropyl]-4-(2-methoxyphenyl)piperazine
Triethylamine (1.46 mL, 10.5 mmol) was added to a mixture of 1H-indole-3-propanoic acid (1.36 g, 7.2 mmol), 1-(2-methoxyphenyl)piperazine hydrochloride (1.5 g, 6.55 mmol) and 1-hydroxybenzotriazole (1.33g, 7.86 mmol) in tetrahydrofuran (20 mL) and the mixture was stirred at room temperature for 10 min. 1-(3-Dimethylaminopropyl)-3-ethyl carbodiimide hydrochloride (1.89 g, 9.8 mmol) was added and the mixture was stirred at room temperature for 2 h. The mixture was poured into water and extracted with ethyl acetate. The combined organic fractions were washed with saturated aqueous sodium carbonate and water, dried (MgSO4), and the solvent was evaporated under reduced pressure . The residue was triturated with hexane to give the title compound as a colorless solid (2.1 g, 88%). 1H NMR (360 MHz, CDCl3) δ8.00 (1H, br s), 7.63 (1H, d, J 7.6 Hz), 7.36 (1H, d, J 8.0 Hz), 7.10-7.00 (2H, m), 6.94-6.80 (3H, m), 3.85 (3H, s), 3.80 (2H, t, J 5.0 Hz), 3.52 (2H, t, J 5.0 Hz), 3.14 (2H, m), 2.95 (2H, t, J 5.0 Hz), and 2.77 (4H, m). m/z (ES+) 364 (M+1).

reactant | Triethylamine | 10.5 mmol, 1.46 mL | C(C)N(CC)CC | C6H15N
reactant | 1H-indole-3-propanoic acid | 7.2 mmol, 1.36 g | N1C=C(C2=CC=CC=C12)CCC(=O)O | C11H11NO2
reactant | 1-(2-methoxyphenyl)piperazine hydrochloride | 6.55 mmol, 1.5 g | Cl.COC1=C(C=CC=C1)N1CCNCC1
reactant | 1-hydroxybenzotriazole | 7.86 mmol, 1.33g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-(3-Dimethylaminopropyl)-3-ethyl carbodiimide hydrochloride | 9.8 mmol, 1.89 g | Cl.CN(CCCN=C=NCC)C
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | 1-[3-(1H-Indol-3-yl)-1-oxopropyl]-4-(2-methoxyphenyl)piperazine | 2.1 g, 88% | N1C=C(C2=CC=CC=C12)CCC(=O)N1CCN(CC1)C1=C(C=CC=C1)OC | C22H25N3O2
